US04839369
5[3-[3-(1-Hydroxyhexyl)phenoxymethyl]phenyl]2H-tetrazole
To 1.5 g of 5[3-[3-(1-hydroxyhexyl)phenoxymethyl]-phenyl]2-carbethoxymethyl-2H-tetrazole in 5 ml of methanol was added 6.0 ml of 2N sodium hydroxide. The mixture was stirred for 3 hours. The mixture was acidified with hydrochloric acid and extracted with ether. On evaporation of the ether layer there was obtained 1.3 g of crude product. This was passed through a silica gel column and eluted with chloroform:methanol (4:1) to give 0.9 g of product as a light amber liquid.

reactant | 5[3-[3-(1-hydroxyhexyl)phenoxymethyl]-phenyl]2-carbethoxymethyl-2H-tetrazole | 1.5 g | OC(CCCCC)C=1C=C(OCC=2C=C(C=CC2)C=2N=NN(N2)CC(=O)OCC)C=CC1 | C24H30N4O4
reactant | sodium hydroxide | 2N, 6.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 5[3-[3-(1-Hydroxyhexyl)phenoxymethyl]phenyl]2H-tetrazole | 0.9 g | OC(CCCCC)C=1C=C(OCC=2C=C(C=CC2)C=2N=NNN2)C=CC1 | C20H24N4O2
